2195-04-29 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 12:00 AM
   central line
 URINE CULTURE - At [**2195-4-29**] 12:00 AM
 BLOOD CULTURED - At [**2195-4-29**] 12:30 AM
   peripheral stick
 FEVER - 101.4
F - [**2195-4-29**] 12:00 AM
   -per GI stool studies ordered, prep for colonscopy in am, MRI pelvis to
   evaluate for fistula after colonscopy if stable
   -serial crits
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Vancomycin - [**2195-4-28**] 09:06 PM
   Metronidazole - [**2195-4-29**] 12:31 AM
   Piperacillin - [**2195-4-29**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-4-28**] 08:54 PM
   Morphine Sulfate - [**2195-4-29**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.9
   HR: 97 (83 - 137) bpm
   BP: 127/85(92) {110/65(76) - 146/85(105)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  9,771 mL
                                                                    272 mL
   PO:
                                                                  4,000 mL
   TF:
   IVF:
                                                                  3,771 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,660 mL
   Urine:
                                                                  1,515 mL
                                                                    360 mL
   NG:
   Stool:
                                                                  2,000 mL
                                                                  1,300 mL
   Drains:
   Balance:
                                                                  6,256 mL
                                                                 -1,388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
    2 L
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM. Neck supple
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, mild ttp, no rebound or guarding
   GU: 1 cm hole lateral to scrotum, no ttp, no surrounding induration
   EXTREMITIES: 2 + distal pulses
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   505 K/uL
   9.8 g/dL
   151 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   27 mg/dL
   103 mEq/L
   137 mEq/L
   28.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
   WBC
   9.4
   Hct
   30.7
   28.9
   28.6
   Plt
   505
   Cr
   1.4
   1.3
   1.4
   Glucose
   128
   216
   253
   151
   Other labs: PT / PTT / INR:15.3/28.7/1.3, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down to 28.6 today, with continued blood
   in bowel movements. Most recently crits stable. Likely lower GI bleed
   given description of BRB with clots. Differential would include
   diverticulosis, AVM, infectious, or crohn
s flare. Also uses chronic
   NSAIDS so could represent a brisk UGI bleed.
   - maintain active T+S, units typed and crossed in blood bank
   - q6 hct, transfuse for hct<25
   - plan for colonscopy by GI today
   - protonix 40mg IV q12
   - send stool for culture, O+P, c diff
   .
   # Fever: Pt had fever to 102 at home and now with continued
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT.
   - continue zosyn, d/c vanco and flagyl
   - MRI pelvis to evaluate for abscess/deep space infection/fistula
   tracking if stable following colonoscopy today
   - send blood cx, UA/urine cx
   - send stool for cx, O+P, c diff
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Could also represent
   evolving sepsis given fevers, although [**Last Name (un) 2736**] likely given response to
   fluids.  BP and HR improved by this am, however continues to be febrile
   and to have bloody BMs.
   - IVF bolus prn
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: Most likely represents prerenal acute renal
   failure in the setting of BRBPR, althought unknown baseline. Given
   mucomyst for renal protection after IV contrast. Cr stable following
   volume resuscitation.
   - Urine lytes
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: NPO for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: ICU for now, possible callout after colonscopy if stable
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:  fixed and SSI
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: FULL
   Disposition:ICU

2195-04-30 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-4-29**] 01:00 PM
 COLONOSCOPY - At [**2195-4-29**] 05:07 PM
 STOOL CULTURE - At [**2195-4-30**] 03:25 AM
   specimen sent for o&p and c. diff
   Colonoscopy: patient has "horrible" crohn's disease. Recommended MR of
   pelvis to eval for fistula/abscess. If wet read negative, start IV
   solumedrol 20mg q8h. They would consider remicade in house thereafter.
   Send stools x2 for C. diff given lots of exudates seen on scope.
   PM HCT stable
   I/Os: see below
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-4-28**] 11:00 AM
   Metronidazole - [**2195-4-29**] 08:16 AM
   Vancomycin - [**2195-4-29**] 08:45 PM
   Piperacillin - [**2195-4-30**] 05:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2195-4-29**] 05:07 PM
   Fentanyl - [**2195-4-29**] 05:07 PM
   Morphine Sulfate - [**2195-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (85 - 101) bpm
   BP: 123/70(81) {109/53(66) - 144/86(98)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  1,218 mL
                                                                  1,153 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,158 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    490 mL
   Urine:
                                                                  1,330 mL
                                                                    490 mL
   NG:
   Stool:
                                                                  1,300 mL
   Drains:
   Balance:
                                                                 -1,413 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GENERAL: alert,  NAD
   HEENT: No scleral icterus. EOMI. MMM. Neck supple
   CARDIAC: RR. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, no wheezes or rales
   ABDOMEN: obese, mild ttp, no rebound or guarding
   GU: 1 cm hole lateral to scrotum, no ttp, no surrounding induration
   EXTREMITIES: 2 + distal pulses
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   489 K/uL
   9.7 g/dL
   182 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   28.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2195-4-28**]  08:38 AM
                             [**2195-4-28**]  09:22 AM
                             [**2195-4-28**]  04:02 PM
                             [**2195-4-28**]  05:00 PM
                             [**2195-4-29**]  03:15 AM
                             [**2195-4-29**]  09:18 AM
                             [**2195-4-29**]  04:53 PM
                             [**2195-4-30**]  12:00 AM
                             [**2195-4-30**]  03:20 AM
   WBC
   9.4
   9.1
   Hct
   30.7
   28.9
   28.6
   29.3
   30.6
   28.6
   28.4
   Plt
   505
   489
   Cr
   1.4
   1.3
   1.4
   1.7
   Glucose
   128
   216
   253
   151
   182
   Other labs: PT / PTT / INR:14.3/29.0/1.2, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56 yom with hx of Diverticulitis s/p partial colectomy x 2, hx of
   multiple herniorraphy's, recent diagnosis of Crohn's disease who was
   transferred from OSH for BRBPR and abdominal pain, now with hypotension
   and tachycardia.
   .
   # BRBPR: Pt with significant bleeding causing hemodynamic instability.
   Hct drop 40-->33, slow trend down to 28.6 today, with continued blood
   in bowel movements. Most recently crits stable. Likely lower GI bleed
   given description of BRB with clots. Differential would include
   diverticulosis, AVM, infectious, or crohn
s flare. Also uses chronic
   NSAIDS so could represent a brisk UGI bleed.
   - maintain active T+S, units typed and crossed in blood bank
   - q6 hct, transfuse for hct<25
   - plan for colonscopy by GI today
   - protonix 40mg IV q12
   - send stool for culture, O+P, c diff
   .
   # Fever: Pt had fever to 102 at home and now with continued
   temperatures. No leukocytosis. Raises concern for infectious or
   inflammatory process-- especially given history of diverticulitis and
   Crohn's-- however no signs of abscess, colitis, or pericolic fat
   stranding on CT.
   - continue zosyn, d/c vanco and flagyl
   - MRI pelvis to evaluate for abscess/deep space infection/fistula
   tracking if stable following colonoscopy today
   - send blood cx, UA/urine cx
   - send stool for cx, O+P, c diff
   - cont to monitor fever curve
   - tylenol prn
   .
   # Hypotension/Sinus tachycardia: Likely secondary to hypovolemia in the
   context of bleeding, decreased PO intake, fever. Could also represent
   evolving sepsis given fevers, although [**Last Name (un) 2736**] likely given response to
   fluids.  BP and HR improved by this am, however continues to be febrile
   and to have bloody BMs.
   - IVF bolus prn
   - evaluation for source of bleeding/infection as above
   .
   # Elevated creatinine: Most likely represents prerenal acute renal
   failure in the setting of BRBPR, althought unknown baseline. Given
   mucomyst for renal protection after IV contrast. Cr stable following
   volume resuscitation.
   - Urine lytes
   - Continue to monitor creatinine
   .
   # DM2:
   - hold oral meds while in house
   - will give half of lantus dose while NPO
   - cover with humalog sliding scale
   .
   # FEN: NPO for now, IVF prn as above, replete lytes prn
   # PPX: PPI, pneumoboots, hold bowel regimen in setting of loose stools
   # Access: 2 PIV's, R IJ
   # Code status: FULL
   # Communication: with patient
   # Disposition: ICU for now, possible callout after colonscopy if stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-4-28**] 07:41 AM
   20 Gauge - [**2195-4-29**] 06:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: